US05550147
A mixture of ethyl 1-(4-cyanophenyl)-5-[4-(methylthio)phenyl]pyrazole-3-carboxylate (2.8 g) and 1N sodium hydroxide (10 ml) in ethanol (50 ml) and tetrahydrofuran (20 ml) was stirred at ambient temperature for 3 hours. The solvent was evaporated, and the residue was dissolved in water, acidified with hydrochloric acid, and extracted with ethyl acetate. The extract was washed with water, dried, and evaporated to give 1-(4-cyanophenyl)-5-[4-(methylthio)phenyl]pyrazole-3-carboxylic acid (2.5 g).

reactant | ethyl 1-(4-cyanophenyl)-5-[4-(methylthio)phenyl]pyrazole-3-carboxylate | 2.8 g | C(#N)C1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)SC)C(=O)OCC | C20H17N3O2S
reactant | sodium hydroxide | 1N, 10 ml | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-(4-cyanophenyl)-5-[4-(methylthio)phenyl]pyrazole-3-carboxylic acid | 2.5 g | C(#N)C1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)SC)C(=O)O | C18H13N3O2S
